US09238640B2
Preparation of 5-Chloro-2-(4-(4-isopropylpiperazin-1-yl)phenyl)quinazolin-4(3H)-one
A solution of 2-amino-6-chlorobenzamide (0.314 g, 1.85 mmol) and 4-(4-isopropylpiperazin-1-yl)benzaldehyde (0.430 g, 1.85 mmol) in DMA (25 mL) were treated with p-TsOH (0.035 g, 0.185 mmol) and NaHSO3 (0.212 g, 2.04 mmol), and the mixture was heated at 140° C. for 18 hours. Then, the mixture was cooled, diluted with CH2Cl2 (200 mL), and washed with saturated NaHCO3 (100 mL). The organic phase was dried over anhydrous MgSO4, filtered, concentrated, and purified by silica gel chromatography, eluting with 1:1 CH2Cl2/92:7:1 CHCl3/MeOH/concentrated NH4OH to 100% 92:7:1 CHCl3/MeOH/concentrated NH4OH to 100% 6:3:1 CHCl3/MeOH/concentrated NH4OH. The resulting solids were rechromatographed with 9:1 CH2Cl2/MeOH to afford the title compound as a white solid. 1H NMR (300 MHz, DMSO-d6): δ 12.24 (br s, 1H), 8.11 (d, J=8.8 Hz, 2H), 7.66-7.71 (m, 1H), 7.59 (d, J=7.9 Hz, 1H), 7.42 (d, J=7.4 Hz, 1H), 7.03 (d, J=8.6 Hz, 2H), 3.28-3.34 (m, 4H), 2.64-2.73 (m, 1H), 2.55-2.59 (m, 4H), 1.01 (d, J=6.4 Hz, 6H). ESI MS m/z 383 [M+H]+.

reactant | 2-amino-6-chlorobenzamide | 1.85 mmol, 0.314 g | NC1=C(C(=O)N)C(=CC=C1)Cl | C7H7ClN2O
reactant | 4-(4-isopropylpiperazin-1-yl)benzaldehyde | 1.85 mmol, 0.430 g | C(C)(C)N1CCN(CC1)C1=CC=C(C=O)C=C1 | C14H20N2O
reactant | p-TsOH | 0.185 mmol, 0.035 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | NaHSO3 | 2.04 mmol, 0.212 g | OS(=O)[O-].[Na+]
solvent | DMA | 25 mL | CC(=O)N(C)C | C4H9NO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-2-(4-(4-isopropylpiperazin-1-yl)phenyl)quinazolin-4(3H)-one | ClC1=C2C(NC(=NC2=CC=C1)C1=CC=C(C=C1)N1CCN(CC1)C(C)C)=O | C21H23ClN4O
